US06737383B1
Step A: Preparation of N-(4-Fluorophenyl)-N-(1-methylethyl)-3,5-dioxo-1,2,4-oxadiazolidine-2-carboxamide
A 1 L three neck round bottom flask equipped with nitrogen inlet, thermometer and water condenser was charged with dioxanes (400 mL), 1,2,4-oxadiazole-3,5-dione (30 g 0.29 moles, prepared according to Srivastava, P. and Robins, R., J. Med. Chem. 1981, 24, 1172-1177), 4-dimethylaminopyridine (36 g, 0.29 mole), and N-isopropyl-4-flourophenylcarbamoyl chloride (63 g, 0.29 moles) at room temperature. The yellow mixture was heated at reflux for 4 hours. When no starting material was detected by thin layer chromatography, heat was tuned off and mixture was cooled to room temperature. The solvent was removed under reduced pressure and the resulting solids were suspended in ethyl acetate. The mixture was washed with 1N HCl, and the aqueous layer was extracted twice with ethyl acetate. The combined organic solutions were washed with brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The product was crystallized from chlorobutane and hexanes, and filtered to give 47 g (57%) of the title compound as a white solid melting at 94-95° C.

reactant | 1,2,4-oxadiazole-3,5-dione | 0.29 moles, 30 g | O1NC(NC1=O)=O | C2H2N2O3
reactant | N-isopropyl-4-flourophenylcarbamoyl chloride | 0.29 moles, 63 g | C(C)(C)N(C(=O)Cl)C1=CC=C(C=C1)F | C10H11ClFNO
catalyst | 4-dimethylaminopyridine | 0.29 mole, 36 g | CN(C1=CC=NC=C1)C | C7H10N2
product | N-(4-Fluorophenyl)-N-(1-methylethyl)-3,5-dioxo-1,2,4-oxadiazolidine-2-carboxamide | 47 g, 57% | FC1=CC=C(C=C1)N(C(=O)N1OC(NC1=O)=O)C(C)C | C12H12FN3O4
